US09120777B2
B) Methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate
Sodium carbonate (7.51 g) was added to a dichloromethane (150 mL) solution of methyl 2-(benzyloxy)-4-cyclobutylbenzoate (14 g), then a dichloromethane (25 mL) solution of bromine (3.17 mL) was slowly added thereto at 10 C, and the mixture was stirred at the same temperature as above for 1 hour. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, followed by extraction with ethyl acetate twice. The obtained organic layer was washed with a saturated aqueous solution of sodium bisulfite and saturated saline in this order and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (12.2 g).

reactant | Sodium carbonate | 7.51 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 2-(benzyloxy)-4-cyclobutylbenzoate | 14 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)C1CCC1 | C19H20O3
reactant | bromine | 3.17 mL | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate | 12.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)C1CCC1)Br | C19H19BrO3
